US04704459
In 4 ml of methylene chloride was dissolved 400 mg of ethyl 2-[2-(2,4-difluorophenylamino)-5-fluoro-6-hydroxynicotinoyl]acetate, and 300 mg of 2,4,6-trimethylbenzenesulfonyl chloride and 150 mg of triethylamine were added thereto with ice-cooling, after which the resulting mixture was subjected to reaction at room temperature for 2 hours. Subsequently, to the reaction mixture was added 4 ml of methylene chloride and 4 ml of water, and the organic layer was separated, washed successively with 4 ml of water and 4 ml of saturated aqueous sodium chloride solution, and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure, and to the crystalline material thus obtained was added 2 ml of diethyl ether, after which crystals were collected by filtration to obtain 520 mg (yield 85.8%) of ethyl 2-[2-(2,4-difluorophenylamino)-5-fluoro-6-(2,4,6-trimethylbenzenesulfonyloxy)nicotinoyl]acetate. The physical properties of this compound were identical with those of the compound obtained in Example 19.

reactant | ethyl 2-[2-(2,4-difluorophenylamino)-5-fluoro-6-hydroxynicotinoyl]acetate | 400 mg | FC1=C(C=CC(=C1)F)NC1=C(C(=O)CC(=O)OCC)C=C(C(=N1)O)F | C16H13F3N2O4
reactant | 2,4,6-trimethylbenzenesulfonyl chloride | 300 mg | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)Cl | C9H11ClO2S
reactant | triethylamine | 150 mg | C(C)N(CC)CC | C6H15N
reactant | water | 4 ml | O | H2O
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | 2 ml | C(C)OCC | C4H10O
product | ethyl 2-[2-(2,4-difluorophenylamino)-5-fluoro-6-(2,4,6-trimethylbenzenesulfonyloxy)nicotinoyl]acetate | 520 mg, yield 85.8% | FC1=C(C=CC(=C1)F)NC1=C(C(=O)CC(=O)OCC)C=C(C(=N1)OS(=O)(=O)C1=C(C=C(C=C1C)C)C)F | C25H23F3N2O6S
